US07825256B2
A solution of 2-imidazol-1-yl-4-methyl-6-pyrrolidin-2-yl-pyrimidine (21.8 mg, 0.095 mmol), 3,4-methylenedioxyphenethyl isocyanate (29 mg, 0.151 mmol) and triethylamine (0.4 mL) in anhydrous THF (1.5 mL) was reacted for 10 min. Water was added and the solution was extracted with ethyl acetate (2×3 mL), washed with brine and dried over Na2SO4. Evaporation of the solvent and purification by TLC plate gave 36 mg (90%) of 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidine-1-carboxylic acid (2-benzo[1,3]dioxol-5-yl-ethyl)-amide as a white solid. [M+H]+ 421.15; 1H-NMR (400 MHz, CD3OD) δ 8.65 (s, 1H), 7.99 (s, 1H), 7.14 (s, 1H), 7.11 (s, 1H), 6.65 (m, 3H), 5.88 (s, 2H), 4.98 (m, 1H), 3.62 (m, 1H), 3.55 (m, 1H), 3.34 (m, 2H), 2.69 (m, 2H), 2.56 (s, 3H), 2.41 (m, 1H), 2.03 (m, 3H); 13C-NMR (100 MHz, CD3OD) δ 173.9, 170.3, 166.5, 157.7, 147.6, 145.9, 133.2, 128.9, 121.3, 115.0, 108.6, 107.6, 106.9, 61.4, 46.4, 41.8, 35.7, 32.4, 23.3, 22.8.

reactant | 2-imidazol-1-yl-4-methyl-6-pyrrolidin-2-yl-pyrimidine | 0.095 mmol, 21.8 mg | N1(C=NC=C1)C1=NC(=CC(=N1)C)C1NCCC1 | C12H15N5
reactant | 3,4-methylenedioxyphenethyl isocyanate | 0.151 mmol, 29 mg | C1OC=2C=C(CCN=C=O)C=CC2O1 | C10H9NO3
reactant | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidine-1-carboxylic acid (2-benzo[1,3]dioxol-5-yl-ethyl)-amide | 36 mg, 90% | O1COC2=C1C=CC(=C2)CCNC(=O)N2C(CCC2)C2=NC(=NC(=C2)C)N2C=NC=C2 | C22H24N6O3
